US05393875
A solution of 1.0 g (2.5 mmol) of (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid and 1.07 ml (12.5 mmol) of oxalyl chloride in 2 ml of tetrahydrofuran was heated at 500 for 18 hours. Thereafter, the reaction solution was evaporated under reduced pressure. The residue was taken up twice in 30 ml of toluene each time and again evaporated under reduced pressure each time. (RS)-2-[[2-[(Benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride was obtained as a yellowish oil in quantitative yield and was used in the following step without purification and characterization.

reactant | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid | 2.5 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)O)(C)C)CC1=CC=CC=C1 | C21H24O6S
reactant | oxalyl chloride | 12.5 mmol, 1.07 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (RS)-2-[[2-[(Benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionyl chloride | quantitative yield | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)Cl)(C)C)CC1=CC=CC=C1 | C21H23ClO5S
